US07135466B2
N-{1-[4-(Tert-butyl)benzyl]tetrahydro-1H-3-pyrrolyl}-N′-{4-[(6,7-dimethoxy-4-quinazolinyl)oxy]-2-nitrophenyl}urea
Chloroform (13 ml) and triethylamine (2 ml) were added to 4-[(6,7-dimethoxy-4-quinazolinyl)oxy]-2-nitroaniline (100 mg) to prepare a solution. Triphosgene (96 mg) was added to the solution, and the mixture was stirred at room temperature for 30 min. 1-[4-(Tert-butyl)benzyl]-3-pyrrolidinamine (102 mg) was then added thereto, and the mixture was stirred at room temperature overnight. A saturated aqueous sodium hydrogencarbonate solution was added to the reaction solution, and the mixture was extracted with chloroform. The extract was washed with saturated brine and was then dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure. The residue was purified by thin-layer chromatography using chloroform/acetone for development. Diethyl ether was added to the purification product, and the precipitated crystal was collected by filtration and was washed to give the title compound (38 mg, yield 22%).

reactant | 4-[(6,7-dimethoxy-4-quinazolinyl)oxy]-2-nitroaniline | 100 mg | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC(=C(N)C=C1)[N+](=O)[O-] | C16H14N4O5
reactant | Triphosgene | 96 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 1-[4-(Tert-butyl)benzyl]-3-pyrrolidinamine | 102 mg | C(C)(C)(C)C1=CC=C(CN2CC(CC2)N)C=C1 | C15H24N2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
solvent | Chloroform | 13 ml | C(Cl)(Cl)Cl | CHCl3
product | N-{1-[4-(Tert-butyl)benzyl]tetrahydro-1H-3-pyrrolyl}-N′-{4-[(6,7-dimethoxy-4-quinazolinyl)oxy]-2-nitrophenyl}urea | 38 mg, yield 22% | C(C)(C)(C)C1=CC=C(CN2CC(CC2)NC(=O)NC2=C(C=C(C=C2)OC2=NC=NC3=CC(=C(C=C23)OC)OC)[N+](=O)[O-])C=C1 | C32H36N6O6
